US06525067B1
Methyl-carbamic acid 2,2.2-trifluoro-1-[2-methyl-8-(2,4,6-trimethyl-phenyl)quinolin-4-yl]-ethyl ester
A mixture of 2,2,2-trifluoro-1-[2-methyl-8-(2,4,6-trimethyl-phenyl)quinolin-4-yl]-ethanol (50 mg), methyl isocyanate (0.5 ml), triethylamine (0.1 ml) in dichloromethane (2 ml) was heated at reflux for 2 hrs. The mixture was quenched with water and extracted with chloroform. The organic layer was separated, dried and concentrated to give the crude material which was purified by silica gel column chromatography using chloroform as eluent to give the title compound as a white solid.

reactant | 2,2,2-trifluoro-1-[2-methyl-8-(2,4,6-trimethyl-phenyl)quinolin-4-yl]-ethanol | 50 mg | FC(C(O)C1=CC(=NC2=C(C=CC=C12)C1=C(C=C(C=C1C)C)C)C)(F)F | C21H20F3NO
reactant | methyl isocyanate | 0.5 ml | CN=C=O | C2H3NO
reactant | triethylamine | 0.1 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | Methyl-carbamic acid 2,2.2-trifluoro-1-[2-methyl-8-(2,4,6-trimethyl-phenyl)quinolin-4-yl]-ethyl ester | FC(C(C1=CC(=NC2=C(C=CC=C12)C1=C(C=C(C=C1C)C)C)C)OC(NC)=O)(F)F | C23H23F3N2O2
